### PR TITLE
Proved QHat.rat_meet_zHat and QHat.rat_join_zHat.

### PR DESCRIPTION
**Pull request by DjangoPeeters**
Proved `QHat.rat_meet_zHat` and `QHat.rat_join_zHat`.

### CODE REVIEW

File: FLT/AutomorphicRepresentation/Example.lean [hunk 1]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
 noncomputable abbrev zsub : AddSubgroup QHat :=
   (Int.castRingHom QHat : ℤ →+ QHat).range
 
-lemma rat_meet_zHat : ratsub ⊓ zHatsub = zsub := sorry
+lemma rat_meet_zHat : ratsub ⊓ zHatsub = zsub := by
+  apply le_antisymm
+  · intro x ⟨⟨l, hl⟩, ⟨r, hr⟩⟩
+    simp at hl hr; rcases lowestTerms x with ⟨⟨N, z, hNz, hx⟩, unique⟩
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:327]: We avoid using `simp` without `only` in the middle of a proof:
```suggestion
    simp only [AddMonoidHom.coe_coe, Algebra.TensorProduct.includeLeft_apply,
      Algebra.TensorProduct.includeRight_apply] at hl hr
    rcases lowestTerms x with ⟨⟨N, z, hNz, hx⟩, unique⟩
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 2]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+    have cop1 : IsCoprime l.den.toPNat' l.num := by
+      have : PNat.val l.den.toPNat' = l.den := by simp [l.den_pos]
+      simp [IsCoprime]; rw [this]
+      have hlp := (ZMod.isUnit_iff_coprime l.num.natAbs l.den).2 l.reduced
+      let m := l.num; have hm : l.num = m := by rfl
+      rcases m with m | m
+      · simp [hm] at *; exact hlp
+      · simp [hm] at *; rw [← neg_add, add_comm]; exact IsUnit.neg hlp
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:335]: If you add
```lean
lemma ZMod.isUnit_natAbs {z : ℤ} {N : ℕ} : IsUnit (z.natAbs : ZMod N) ↔ IsUnit (z : ZMod N) := by
  cases z.natAbs_eq with
  | inl h | inr h => rw [h]; simp [-Int.natCast_natAbs]
```
then you can rewrite this as
```suggestion
      simp_rw [IsCoprime, ZHat.intCast_val, ← ZMod.isUnit_natAbs, ZMod.isUnit_iff_coprime,
        PNat.toPNat'_coe l.den_pos]
      exact l.reduced
```
That's a lot of changes at one. I:

1. Replaced the `simp [IsCoprime]` by the output of `simp? [IsCoprime]`
2. Noted that the cases split didn't use anything specific about `l.num`, and tried to extract the general statement into the lemma above. That left me with `rw [ZMod.isUnit_natAbs] at hlp; exact hlp` to finish the proof.
3. Looked at `hlp` and noticed that I could move the `ZMod.isUnit_iff_coprime` application out: `have hlp := l.reduced; rw [← ZMod.isUnit_iff_coprime, ZMod.isUnit_natAbs] at hlp; exact hlp`
4. Rather than working on `hlp` until it matched the goal, I worked on the goal until it matched `hlp`: `rw [← ZMod.isUnit_natAbs, ZMod.isUnit_iff_coprime]; have hlp := l.reduced; exact hlp` 
5. Suspect that `this` should be provable with a single lemma, and found it by searching [loogle](https://loogle.lean-lang.org/?q=Nat.toPNat%27) for `Nat.toPNat'`

6. This got me to
```lean
      simp only [IsCoprime, ZHat.intCast_val]
      rw [PNat.toPNat'_coe l.den_pos]
      rw [← ZMod.isUnit_natAbs, ZMod.isUnit_iff_coprime]
      exact l.reduced
```
at which point I collapsed everything into a single `simp_rw`, though I had to move `PNat.toPNat'_coe l.den_pos` to the end for a reason I didn't investigate.

File: FLT/AutomorphicRepresentation/Example.lean [hunk 3]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+    have cop2 : IsCoprime 1 r := ⟨default, by simp [ZMod.instUnique.uniq]⟩
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:336]: I think it's best to avoid using instance names explicitly. This could be:
```suggestion
    have cop2 : IsCoprime 1 r := ⟨default, by simp only [PNat.val_ofNat]; exact Subsingleton.elim _ _⟩
```
or also
```suggestion
    have cop2 : IsCoprime 1 r := by
      simp only [IsCoprime, PNat.val_ofNat]
      exact isUnit_of_subsingleton _
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 4]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+    have hcanon : x = (1/(l.den : ℚ)) ⊗ₜ[ℤ] (l.num : ZHat) := by
+      nth_rw 1 [← hl, ← Rat.num_div_den l, ← mul_one ((l.num : ℚ) / l.den), div_mul_comm,
+      mul_comm, ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
+    rw [← PNat.toPNat'_coe l.den_pos, hx] at hcanon
+    have h := unique _ _ _ _ ⟨hNz, cop1, hcanon⟩
+    have : 1 = 1/(@Nat.cast ℚ Rat.instNatCast (PNat.val 1 : ℕ) : ℚ) := by rfl
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:342]: You can write the messy cast like this:
```suggestion
    have : 1 = 1 / (((1 : ℕ+) : ℕ) : ℚ) := by simp
```
and it's somehow an accident that `rfl` works, so I used `simp` instead

File: FLT/AutomorphicRepresentation/Example.lean [hunk 5]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+      let m := l.num; have hm : l.num = m := by rfl
+      rcases m with m | m
+      · simp [hm] at *; exact hlp
+      · simp [hm] at *; rw [← neg_add, add_comm]; exact IsUnit.neg hlp
+    have cop2 : IsCoprime 1 r := ⟨default, by simp [ZMod.instUnique.uniq]⟩
+    have hcanon : x = (1/(l.den : ℚ)) ⊗ₜ[ℤ] (l.num : ZHat) := by
+      nth_rw 1 [← hl, ← Rat.num_div_den l, ← mul_one ((l.num : ℚ) / l.den), div_mul_comm,
+      mul_comm, ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
+    rw [← PNat.toPNat'_coe l.den_pos, hx] at hcanon
+    have h := unique _ _ _ _ ⟨hNz, cop1, hcanon⟩
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:341]: A trick: since the result of `unique` is two equalities of variables, you can substitute them out with
```suggestion
    obtain ⟨rfl, rfl⟩ := unique _ _ _ _ ⟨hNz, cop1, hcanon⟩
```
(and then a bit of work below)

File: FLT/AutomorphicRepresentation/Example.lean [hunk 6]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+    have : 1 = 1/(@Nat.cast ℚ Rat.instNatCast (PNat.val 1 : ℕ) : ℚ) := by rfl
+    nth_rw 1 [← hx, ← h.1, ← h.2, ← hr, this] at hcanon
+    use l.num; rw [hx, h.2, (unique N 1 z r ⟨hNz, cop2, hcanon.symm⟩).1]; norm_num
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:344]: `norm_num` isn't the greatest tactic to use here; I'd suggest instead
```suggestion
    use l.num; rw [hx, h.2, (unique N 1 z r ⟨hNz, cop2, hcanon.symm⟩).1]
    simp only [AddMonoidHom.coe_coe, eq_intCast, PNat.val_ofNat, Nat.cast_one, ne_eq, one_ne_zero,
      not_false_eq_true, div_self]
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 7]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+    calc
+      ↑l.num = i₂ ↑l.num := by simp
+      _ = 1 ⊗ₜ[ℤ] ↑l.num:= by rfl
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:347]: Again the fact that `rfl` works is somewhat of an accident, but you could use this instead:
```suggestion
    calc
      ↑l.num = i₂ ↑l.num := by simp
      _ = 1 ⊗ₜ[ℤ] ↑l.num:= by simp only [i₂, Algebra.TensorProduct.includeRight_apply]
```
You could also use
```suggestion
    rw [← map_intCast i₂, i₂, Algebra.TensorProduct.includeRight_apply]
```
or even
```suggestion
    rw [← map_intCast Algebra.TensorProduct.includeRight, Algebra.TensorProduct.includeRight_apply]
```
But then you could also add a lemma
```lean
@[simp]
lemma one_tmul_intCast {z : ℤ} : (1 : ℚ) ⊗ₜ[ℤ] (z : ZHat) = z := by
  rw [← map_intCast Algebra.TensorProduct.includeRight, Algebra.TensorProduct.includeRight_apply]
```
and you could replace the `norm_num; calc` entirely by `simp`.

Or you could even notice the lemma holds more generally:
```lean
@[simp]
lemma _root_.Algebra.TensorProduct.one_tmul_intCast {R : Type*} {A : Type*} {B : Type*}
    [CommRing R] [Ring A] [Algebra R A] [Ring B] [Algebra R B] {z : ℤ} :
    (1 : A) ⊗ₜ[R] (z : B) = (z : TensorProduct R A B) := by
  rw [← map_intCast Algebra.TensorProduct.includeRight, Algebra.TensorProduct.includeRight_apply]
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 8]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+  · exact fun x ⟨k, hk⟩ ↦ by constructor <;> (use k; simp; exact hk)
 
-lemma rat_join_zHat : ratsub ⊔ zHatsub = ⊤ := sorry
+lemma rat_join_zHat : ratsub ⊔ zHatsub = ⊤ := by
+  apply le_antisymm
+  simp; intro x _
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:352]: There's a dedicated lemma for this:
```suggestion
  rw [eq_top_iff]
  intro x _
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 9]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+  rcases x.canonicalForm with ⟨N, z, hNz⟩
+  rcases ZHat.nat_dense N z with ⟨q, r, hz, _⟩
+  have h : z - r = N * q := by simp [hz]
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:355]: Also possible, not necessarily better:
```suggestion
  have h : z - r = N * q := sub_eq_of_eq_add hz
```

File: FLT/AutomorphicRepresentation/Example.lean [hunk 10]
```diff
@@ -321,9 +321,48 @@ noncomputable abbrev zHatsub : AddSubgroup QHat :=
...
+  rw [AddSubgroup.mem_sup]
+  use ((r : ℤ) / N : ℚ) ⊗ₜ[ℤ] 1
+  constructor; simp; use 1 ⊗ₜ[ℤ] q
+  constructor; simp; nth_rw 1 [← mul_one ((r : ℤ) / N : ℚ), div_mul_comm,
+    mul_comm, ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:360]: We prefer focusing dots to make it clear what goal you're working on:
```suggestion
  use ((r : ℤ) / N : ℚ) ⊗ₜ[ℤ] 1
  constructor
  · simp
  use 1 ⊗ₜ[ℤ] q
  constructor
  · simp
  nth_rw 1 [← mul_one ((r : ℤ) / N : ℚ), div_mul_comm,
    mul_comm, ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
```
or you could use:
```suggestion
  refine ⟨((r : ℤ) / N : ℚ) ⊗ₜ[ℤ] 1, by simp, 1 ⊗ₜ[ℤ] q, by simp, ?_⟩
  nth_rw 1 [← mul_one ((r : ℤ) / N : ℚ), div_mul_comm,
    mul_comm, ← zsmul_eq_mul, TensorProduct.smul_tmul, zsmul_eq_mul, mul_one]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
This is great, but since you asked for feedback, here's some things I might change. Please don't let the wall of text demotivate you; I'm just hoping you might find my suggestions interesting.

File: FLT/AutomorphicRepresentation/Example.lean (hunk 7 above)
Comment (DjangoPeeters) [reply FLT/AutomorphicRepresentation/Example.lean]: Why is the `rfl` an accident here? I found it funny and very useful when writing the proof lol.

**Comment by Ruben-VandeVelde** [comment]
And please also add `\leanok` after `\begin{proof}` for both lemmas in `blueprint/src/chapter/ch05automorphicformexample.tex`

**Comment by DjangoPeeters** [comment]
Done.

**Comment by DjangoPeeters** [comment]
Ruben, I think your 2nd lemma gave an error...

File: FLT/AutomorphicRepresentation/Example.lean (hunk 7 above)
Comment (kbuzzard) [reply FLT/AutomorphicRepresentation/Example.lean]: Sometimes things are "accidentally true by definition". And then if the definition changes, they're no longer accidentally true by definition and the proof breaks. It's better to have a more robust proof.

**Comment by kbuzzard** [comment]
Thanks a lot for your work on this! Can you resolve the issues which have been dealt with so I can see what's going on? Sorry, I've been dealing with real life for most of this week but now I've got more time for FLT.

**Comment by DjangoPeeters** [comment]
I'll first check if the lean and mathlib versions are compatible.

**Comment by DjangoPeeters** [comment]
Seems like my local lean version is `v4.12.0` and this repo is using `v4.13.0-rc3`.

**Comment by DjangoPeeters** [comment]
Hmm, something about `failed to synthesize RingHomClass blah`. I think it is not converting the algebra morphism to a ring homomorphism. Idk how I need to solve that.

**Comment by DjangoPeeters** [comment]
Due to the mathlib bump, `FunLike` was split and I think I need `Algebra.funLike` but due to a signature change it's gonna take me some more time fixing this...

**Comment by DjangoPeeters** [comment]
It seems I have fixed it.

**Comment by pitmonticone** [comment]
Just resolved a small merge conflict.

**Comment by kbuzzard** [comment]
> It seems I have fixed it.

There are many unresolved conversations. Can you resolve those which are now dealt with? Then it will be easier to see what's going on.

**Comment by kbuzzard** [comment]
I'm sorry I'm such a git amateur but this PR is currently editing a system file which it shouldn't be touching. Is someone e.g. @DjangoPeeters able to undo the random deletions which they have committed to `lake-manifest.json`? This is the only thing stopping this PR from being merged.

Alternatively someone can explain to me whether it's possible for me to fix this. It can't be merged because it's sabotaging a system file, but it's a PR from a fork so I don't know how to fix it.

**Comment by kbuzzard** [comment]
OK I propose merging this PR into my local master, fixing the problem and then just pushing. I don't know what github will think of this but at least it will mean that we get the results into the repo.

**Comment by kbuzzard** [comment]
these commits are now on main (other than the one editing the system file). Thanks for your contribution!
